US07863315B2
Preparation of 6-(5-(((5-fluoro-2-oxoindolin-3-ylidene)hydrazono)methyl)-2,4-dimethyl-1H-pyrrole-3-carboxamido)-N-hydroxyhexanamide
6-(5-(((5-fluoro-2-oxoindolin-3-ylidene)hydrazono)methyl)-2,4-dimethyl-1H-pyrrole-3-carboxamido)-hexanoic acid (441 mg, 1 mmol), triethylamine (151 mg, 1.5 mmol) and 20 ml of DMF were stirred at 0° C. while ethyl chloroformate (163 mg, 1.5 mmol) was added. The mixture was stirred at 0° C. for 2 hours, and then 50% aqueous solution of hydroxylamine (1.32 g, 20 mmol) was added. The mixture was stirred for 3 hours at room temperature, and then diluted with 1000 mL of brine. The solids were collected by vacuum filtration, washed with water and dried under vacuum to give the title compound (201 mg, 44%) as a red solid. LC-MS (m/z) 457 (M+1).

reactant | 6-(5-(((5-fluoro-2-oxoindolin-3-ylidene)hydrazono)methyl)-2,4-dimethyl-1H-pyrrole-3-carboxamido)-hexanoic acid | 1 mmol, 441 mg | FC=1C=C2C(C(NC2=CC1)=O)=NN=CC1=C(C(=C(N1)C)C(=O)NCCCCCC(=O)O)C | C22H24FN5O4
reactant | triethylamine | 1.5 mmol, 151 mg | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 1.5 mmol, 163 mg | ClC(=O)OCC | C3H5ClO2
reactant | hydroxylamine | 20 mmol, 1.32 g | NO | H3NO
solvent | brine | 1000 mL | [Cl-].[Na+].O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 6-(5-(((5-fluoro-2-oxoindolin-3-ylidene)hydrazono)methyl)-2,4-dimethyl-1H-pyrrole-3-carboxamido)-N-hydroxyhexanamide | 201 mg, 44% | FC=1C=C2C(C(NC2=CC1)=O)=NN=CC1=C(C(=C(N1)C)C(=O)NCCCCCC(=O)NO)C | C22H25FN6O4
